US07157447B2
1-(2-Bromo-5-fluorophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole.
A mixture of 2-azido-1-bromo-4-fluorobenzene (1.047 g, 4.85 mmol) and trimethylsilylacetylene (2.01 mL, 14.54 mmol) in toluene (5 mL) was heated in a pressure vessel at 110° C. for 21.5 h. The reaction mixture was concentrated in vacuo and the residue was purified with a Biotage system on silica gel with hexanes:ethyl acetate (9:1) gradient as the eluent to afford the title compound as a colorless oil (1.451 g, 95% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 7.97 (1H, s), 7.74 (1H, dd, J=9.0, 5.4 Hz), 7.37 (1H, dd, J=8.5, 2.9 Hz), 7.16 (1H, ddd, J=8.8, 7.6, 3.0 Hz), 0.40 (9H, s), LCMS (+ESI, M+H+) m/z 314/316.

reactant | 2-azido-1-bromo-4-fluorobenzene | 4.85 mmol, 1.047 g | N(=[N+]=[N-])C1=C(C=CC(=C1)F)Br | C6H3BrFN3
reactant | trimethylsilylacetylene | 14.54 mmol, 2.01 mL | C[Si](C)(C)C#C | C5H10Si
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Bromo-5-fluorophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole | 1.451 g, 95% yield | BrC1=C(C=C(C=C1)F)N1N=NC(=C1)[Si](C)(C)C | C11H13BrFN3Si
